US05017604
Sodium hydride (0.48 g, 19.9 mmol) is added to a solution of 2-[[2-chloro-3-(1-hydroxyethyl)phenyl]amino]benzoic acid (5.8 g, 19.9 mmol) in dimethylformamide (15 mL) at room temperature. After 15 minutes, the reaction mixture is cooled to 0° C, and methyl iodide (2.8 g, 19.9 mmol) is added dropwise. The reaction mixture is stirred at room temperature overnight, and then partitioned between water and ether. The organic layer is washed with water and brine, dried over magnesium sulfate, and evaporated. Recrystallization of the residue from ether/hexane gives pure 2-[[2-chloro-3-(1-hydroxyethyl)phenyl]amino]benzoic acid methyl ester (4.6 g, 76%), mp=94-95° C.

reactant | Sodium hydride | 19.9 mmol, 0.48 g | [H-].[Na+]
reactant | 2-[[2-chloro-3-(1-hydroxyethyl)phenyl]amino]benzoic acid | 19.9 mmol, 5.8 g | ClC1=C(C=CC=C1C(C)O)NC1=C(C(=O)O)C=CC=C1 | C15H14ClNO3
reactant | methyl iodide | 19.9 mmol, 2.8 g | CI | CH3I
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-[[2-chloro-3-(1-hydroxyethyl)phenyl]amino]benzoic acid methyl ester | 4.6 g, 76% | COC(C1=C(C=CC=C1)NC1=C(C(=CC=C1)C(C)O)Cl)=O | C16H16ClNO3
